* C:\IMR_Projects\IMR\Arb_Power_Booster\Simulate\Absolute_Value.asc
XU1 0 N002 VDD VEE N004 tlv9352
V1 VDD 0 15
V2 VEE 0 -15
XU2 0 N001 VDD VEE VO tlv9352
D1 N004 N002 1N4148
D2 N003 N004 1N4148
R1 N001 N003 5K
R2 VO N001 10K
R3 N003 N002 10K
R4 N002 VIN 10K
R5 N001 VIN 10K
V3 VIN 0 PULSE(-5 1 0 .00001 .00001 .0005 .001 3)
R6 VO VO/2 10K
R7 VO/2 0 3K
R8 NC_01 0 1e6
.model D D
.lib C:\Users\habco\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran .003
.lib tlv9352.lib
.backanno
.end
