* C:\IMR_Projects\IMR\Arb_Power_Booster\Simulate\Absolute_Value.asc
V1 VDD 0 15
V2 VEE 0 -15
D1 N004 N002 1N4148
D2 N003 N004 1N4148
R1 N001 N003 5K
R2 VO N001 10K
R3 N003 N002 10K
R4 N002 VIN 10K
R5 N001 VIN 10K
V3 VIN 0 10
R6 VO VO/2 10K
R7 VO/2 0 3K
XU3 N005 N001 VDD VEE VO tlv9302
XU1 N006 N002 VDD VEE N004 tlv9302
R8 N006 0 4.99K
R9 N005 0 2.49K
.model D D
.lib C:\Users\habco\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran .010
.lib tlv9302.lib
.backanno
.end
